US06255496B1
N-2-[4-Iodophenoxy]ethyldodecylamine
A mixture of dodecylamine (30 g, 162 mmol), diisopropylethylamine (22 ml, 128 mmol), sodium iodide (1.3 g, 8.5 mmol), 1-[2-bromoethoxy]-4-iodobenzene (13.9 g, 42.5 mmol) and isopropanol (250 ml) was stirred and refluxed for 24 h. After cooling to r.t., the mixture was filtered, washed with dichloromethane and concentrated in vacuo. The residue was chromatographed on silica gel (dichloromethane/methanol 50:1 to 20:1) to afford the title compound (15 g, 82%) as a white solid.

reactant | dodecylamine | 162 mmol, 30 g | C(CCCCCCCCCCC)N | C12H27N
reactant | diisopropylethylamine | 128 mmol, 22 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 8.5 mmol, 1.3 g | [I-].[Na+]
reactant | 1-[2-bromoethoxy]-4-iodobenzene | 42.5 mmol, 13.9 g | BrCCOC1=CC=C(C=C1)I | C8H8BrIO
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | N-2-[4-Iodophenoxy]ethyldodecylamine | 15 g, 82% | IC1=CC=C(OCCNCCCCCCCCCCCC)C=C1 | C20H34INO
